US08242145B2
Step 5: {3-[4-Bromo-2-((S)-2-oxo-4-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid
To {3-[4-bromo-2-((S)-2-oxo-4-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.043 g, 0.09 mmol) in THF (2 mL) was added 1N aqueous lithium hydroxide (2 mL), and the reaction was stirred at room temperature for 3 hours, until no starting material was seen by analytical LCMS. The mixture was acidified with 1N aqueous HCl and extracted three times with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by silica gel chromatography to give the desired product (0.027 g).

reactant | {3-[4-bromo-2-((S)-2-oxo-4-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.09 mmol, 0.043 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C25H22BrNO5
reactant | lithium hydroxide | 1N, 2 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {3-[4-Bromo-2-((S)-2-oxo-4-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid | 0.027 g | BrC1=CC(=C(OC=2C=C(C=CC2)CC(=O)O)C=C1)CN1C(OC[C@@H]1C1=CC=CC=C1)=O | C24H20BrNO5
